US06127386
201c. 3-(1-BOC-2-(S)-azetidinylmethoxy)-6-ethenylpyridine
To a solution of 3-(1-BOC-2-(S)-azetidinylmethoxy)-6-chloropyridine (1.8 g, 6.04 mmol) in toluene (25 mL) was added vinyltributyltin (2.7 mL, 9.06 mmol) and [1,1'-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (180 mg). After heating at reflux for 16 h, the resulting mixture was cooled to room temperature and the solvent was removed. The residue was chromatographed (silica gel; hexane/EtOAc, 10:1) to afford the title compound (1.49 g, 85%): 1H NMR (CDCl3, 300 MHz) δ 1.40 (s, 9H), 2.25-2.30 (m, 2H), 3.85-3.90 (m, 2H), 4.16 (m, 1H), 4.35 (m, 1H), 4.54 (m, 1H), 5.35 (dd, 1H, J=1.0, 12.0 Hz), 6.05 (dd, 1H, J=1.0, 18.0 Hz), 6.80 (dd, 1H, J=12.0, 18.0 Hz), 7.20-7.26 (m, 2H), 8.35 (d, 1H, J=3.0 Hz); MS (CI/NH3) m/z 291 (M+H)+, 319 (M+NH4)+.

reactant | 3-(1-BOC-2-(S)-azetidinylmethoxy)-6-chloropyridine | 6.04 mmol, 1.8 g | C(=O)(OC(C)(C)C)N1[C@@H](CC1)COC=1C=NC(=CC1)Cl | C14H19ClN2O3
reactant | vinyltributyltin | 9.06 mmol, 2.7 mL | C(=C)[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | [1,1'-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 180 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(1-BOC-2-(S)-azetidinylmethoxy)-6-ethenylpyridine | 1.49 g, 85% | C(=O)(OC(C)(C)C)N1[C@@H](CC1)COC=1C=NC(=CC1)C=C | C16H22N2O3
